US04616014
5,6-Dimethyl-3-methylthio-1,2,4-triazine (2.48 g) was reacted with potassium hydroxide (1.792 g), and the reaction mixture was reduced by sodium borohydride (0.907 g) in a similar manner to that of Example 32-(3). The above reaction mixture was concentrated, and the residue was treated with 10% hydrochloric acid and then evaporated under reduced pressure. The resultant solid was extracted with a mixture of chloroform and methanol. The extract was evaporated, and the resultant residue was dissolved in a small amount of water. The solution was passed through a column of DIAION NP-20 (Trademark, manufactured by Mitisubishi Chemical Industries Ltd.) (100 ml) using water and then a mixture of methanol and water (1:1) as eluents. The eluate with aqueous methanol was evaporated under reduced pressure and the residue was dissolved in acetone under reflux. The solution was treated with activated charcoal and filtered. The filtrate was evaporated and resultant residue was recrystallized from ethanol to give 5,6-dimethyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.719 g), m.p. 200°~102.5° C.

reactant | 5,6-Dimethyl-3-methylthio-1,2,4-triazine | 2.48 g | CC=1N=C(N=NC1C)SC | C6H9N3S
reactant | potassium hydroxide | 1.792 g | [OH-].[K+]
reactant | sodium borohydride | 0.907 g | [BH4-].[Na+]
product | 5,6-dimethyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.719 g | CC1NC(NN=C1C)=O | C5H9N3O
